US07148239B2
N-[2-palmitoyloxy-3-(1-piperidinyl)propoxy]-3-pyridinecarboximidamide monohydrochloride
14.7 g (52.8 mmol) of N-[2-hydroxy-3-(1-piperidinyl)propoxy]-3-pyridine-carboximidamide [Hung. Pat. 177.578 (1976)] was dissolved in 160 ml of chloroform. 7.7 ml (55 mmol) of triethylamine was added, followed by dropwise addition of a solution of palmitoyl chloride (14.7 g; 56.5 mmol) in 85 ml of chloroform. The mixture was stirred overnight at room temperature. Next day further amount of 3.8 ml of triethylamine and 7.4 g of palmitoylchloride was added, and the stirring was continued for one more day. The solution was extracted then with water, 5% acetic acid and water, successively, dried over anh. sodium sulfate, and evaporated to dryness.

reactant | N-[2-hydroxy-3-(1-piperidinyl)propoxy]-3-pyridine-carboximidamide | 52.8 mmol, 14.7 g | OC(CONC(=N)C=1C=NC=CC1)CN1CCCCC1 | C14H22N4O2
reactant | triethylamine | 55 mmol, 7.7 ml | C(C)N(CC)CC | C6H15N
reactant | palmitoyl chloride | 56.5 mmol, 14.7 g | C(CCCCCCCCCCCCCCC)(=O)Cl | C16H31ClO
reactant | triethylamine | 3.8 ml | C(C)N(CC)CC | C6H15N
reactant | palmitoylchloride | 7.4 g | C(CCCCCCCCCCCCCCC)(=O)Cl | C16H31ClO
solvent | chloroform | 160 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 85 ml | C(Cl)(Cl)Cl | CHCl3
product | N-[2-palmitoyloxy-3-(1-piperidinyl)propoxy]-3-pyridinecarboximidamide monohydrochloride | Cl.C(CCCCCCCCCCCCCCC)(=O)OC(CONC(=N)C=1C=NC=CC1)CN1CCCCC1 | InChI=1S/C30H52N4O3.ClH/c1-2-3-4-5-6-7-8-9-10-11-12-13-15-20-29(35)37-28(25-34-22-16-14-17-23-34)26-36-33-30(31)27-19-18-21-32-24-27;/h18-19,21,24,28H,2-17,20,22-23,25-26H2,1H3,(H2,31,33);1H
